US04882330
1-(4-Bromophenoxy)-4-chloro-2-butanol
To a rapidly stirring solution of 22.5 g (0.56 mole) of sodium hydroxide in 400 ml of water was added, dropwise, 73.8 g (0.52 mole) of freshly distilled 1,4-dichloro-2-butanol. The mixture was stirred for 15 min at ambient temperature. To this mixture was added, over a 45 min period, a solution obtained by adding 75.0 g (0.43 mole) of 4-bromophenol to a solution of 18.0 g (0.47 mole) of sodium hydroxide in 430 ml of water. The mixture was stirred vigorously for 30 hr and then cooled in an ice bath. The suspended solid was collected by filtration, rinsed with water several times and air dried. Recrystallization from ethyl ether-petroleum ether (b.p. range 30°-60° C.) gave 44.2 g (37%) of white solid, m.p. 75°-78° C.

reactant | sodium hydroxide | 0.56 mole, 22.5 g | [OH-].[Na+]
reactant | 1,4-dichloro-2-butanol | ClCC(CCCl)O | C4H8Cl2O
reactant | 4-bromophenol | 0.43 mole, 75.0 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | sodium hydroxide | 0.47 mole, 18.0 g | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
solvent | water | 430 ml | O | H2O
product | 1-(4-Bromophenoxy)-4-chloro-2-butanol | 44.2 g, 37% | BrC1=CC=C(OCC(CCCl)O)C=C1 | C10H12BrClO2
